US09079853B2
5-chloro-1-isobutylindoline-2,3-dione
Was made in an analogous fashion to 1-propylindoline-2,3-dione from commercially available 5-chloroisatin (purchased from Fisher Scientific) and 1-bromo-2-methylpropane (purchased from Fisher Scientific). 1H NMR δ 7.57 (m, 2H), 6.87 (d, 1H), 3.54 (d, 2H), 2.12 (m, 1H), 1.00 (d, 6H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
product | 5-chloro-1-isobutylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC(C)C)=O)=O | C12H12ClNO2
